US08455534B2
Step 3: (E)-Ethyl 3-(4-((E)-2-(2,4-dichlorophenyl)-1-(1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate
A solution of HCl (5.0 mL, 2.0 M in diethyl ether) was added to a solution of (E)-ethyl 3-(4-((E)-2-(2,4-dichlorophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate (3.0 g, 5.2 mmol) in ethyl alcohol (25 mL) at room temperature. The resulting mixture was heated at 70° C. for 2 h. Upon completion, the mixture was cooled down to room temperature and concentrated to give a pale yellow solid. This crude material was dissolved in DCM and washed with water (50 mL), washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated. The crude product was purified by silica gel chromatography (0-100% ethyl acetate in hexanes) to give the title compound (2.37 g) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 13.17 (s, 1H), 8.11 (s, 1H), 7.69 (s, 1H), 7.58-7.52 (m, 2H), 7.48 (d, 1H), 7.43 (d, 2H), 7.36-7.32 (m, 2H), 7.19 (dd, 1H), 6.97 (d, 2H), 6.49 (d, 1H), 4.15 (q, 2H), 2.39 (q, 2H), 1.22 (t, 3H), 0.90 (t, 3H); LCMS: 491 (M+H)+.

reactant | HCl | 2.0 M, 5.0 mL | Cl | ClH
reactant | (E)-ethyl 3-(4-((E)-2-(2,4-dichlorophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | 5.2 mmol, 3.0 g | ClC1=C(C=CC(=C1)Cl)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C33H32Cl2N2O3
solvent | ethyl alcohol | 25 mL | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-Ethyl 3-(4-((E)-2-(2,4-dichlorophenyl)-1-(1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | 2.37 g | ClC1=C(C=CC(=C1)Cl)/C(=C(/C=1C=C2C=NNC2=CC1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C28H24Cl2N2O2
